US07148234B2
STEP 1. 2-[4-(4-Methoxy-2-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 2-chloro-5-methoxynitrobenzene and 4-aminophenylethyl alcohol.

reactant | 2-chloro-5-methoxynitrobenzene | ClC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(4-Methoxy-2-nitroanilino)phenyl]ethanol | COC1=CC(=C(NC2=CC=C(C=C2)CCO)C=C1)[N+](=O)[O-] | C15H16N2O4
